US08053438B2
To a mixture of (1H-benzo[d]imidazol-2-yl)(4-(3-(2-fluoropyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone (200 mg, 0.486 mmol) and 4-methoxybenzyl alcohol (0.905 mL, 7.29 mmol) in toluene in a 6 mL tube was added potassium tert-butoxide, 1.0 m solution in 2-methyl-2-propanol (2.431 mL, 2.431 mmol). The reaction was heated to 80° C. After 7 min a mixture of products was observed by LC/MS. The mixture was diluted with DCM (30 mL), and washed with water (3×25 mL) and brine (30 mL). It was dried over magnesium sulfate, concentrated and dried in vacuo. It was purified by flash chromatography (40 g SiliaSep pre-packed silica gel column, eluent: 0-40% EtOAc in hexane) to give (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(4-methoxybenzyloxy)pyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone. MS (ESI, pos. ion) m/z: 532.0 (M+1).

reactant | (1H-benzo[d]imidazol-2-yl)(4-(3-(2-fluoropyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone | 0.486 mmol, 200 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2C(=NC=CC2)F | C23H14FN5O2
reactant | 4-methoxybenzyl alcohol | 7.29 mmol, 0.905 mL | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-methyl-2-propanol | 2.431 mmol, 2.431 mL | CC(C)(C)O | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | (1H-benzo[d]imidazol-2-yl)(4-(3-(2-(4-methoxybenzyloxy)pyridin-3-yl)pyrazin-2-yloxy)phenyl)methanone | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C=2C(=NC=CC2)OCC2=CC=C(C=C2)OC | C31H23N5O4
